### PR TITLE
feat: `lintegral_sup_rpow_edist_cover_rescale` and `lintegral_sup_rpow_edist_le_of_minimal_cover_two`

### PR DESCRIPTION
**Pull request by TwoFX**
Lots of "ENNReal fighting" in these two lemmas. I would love to be told that this was all unnecessary and that there are tricks/tactics that make this much easier.

### CODE REVIEW

File: BrownianMotion/Continuity/IsKolmogorovProcess.lean [hunk 1]
```diff
@@ -337,15 +418,89 @@ lemma lintegral_sup_rpow_edist_le_of_minimal_cover (hp : 1 ≤ p)
...
+  gcongr M * ?_
+
+  calc (∑ j ∈ Finset.range (k - m),
+          ((ε₀ : ℝ≥0∞) * 2⁻¹ ^ (m + j + 1)) ^ (-d / p) * (ε₀ * 2⁻¹ ^ (m + j)) ^ (q / p)) ^ p
+    _ = (∑ j ∈ Finset.range (k - m),
+          ((ε₀ : ℝ≥0∞) * 2⁻¹ ^ (m + j)) ^ (q / p + (-d / p)) * 2⁻¹ ^ (-d / p)) ^ p := ?_
+    _ ≤ 2 ^ d * ((2 * ε₀ * 2⁻¹ ^ m) ^ (q - d) / (2 ^ ((q - d) / p) - 1) ^ p) := ?_
+
+  · congr
+    ext j
```
Comment (RemyDegenne) [inline BrownianMotion/Continuity/IsKolmogorovProcess.lean:453]:
```suggestion
  · congr with j
```

File: blueprint/src/chapters/kolmogorov_chentsov.tex [hunk 2]
```diff
@@ -958,7 +958,7 @@ \subsubsection{First term}
 \end{align*}
 \end{lemma}
 
-\begin{proof}
+\begin{proof}\leanok
```
Comment (RemyDegenne) [inline blueprint/src/chapters/kolmogorov_chentsov.tex:961]: Could you add a leanok to the second lemma as well?

**Review by RemyDegenne — APPROVED** [review]
ENNReal fighting is a real pain, I agree (especially when you end up with Nat, ENat, ENNReal and Real in the same equation as can happen in some of those lemmas)!

Sadly I don't know better than you how to deal with it. Introducing NNReal on top of everything else seems a bit strange to me, but I did not look closely enough to see if it's good or not.
